US06858638B2
3,4-Dichloro-N-(1H-indazol-5-yl)benzenesulfonamide can be obtained as described in Example 2 from 1 g of 5-amino-1H-indazole, 20 ml of pyridine and 1.84 g of 3,4-dichlorobenzenesulfonyl chloride. 0.55 g of 3,4-dichloro-N-(1H-indazol-5-yl)benzenesulfonamide is thus obtained in the form of a green solid melting at 209° C. (analysis C13H9Cl2N3O2S % calculated C, 45.63; H, 2.65; Cl, 20.72; N, 12.28; O, 9.35; S, 9.37. % found C, 45.87; H, 2.72; Cl, 21.10; N, 12.27; S, 9.21).

reactant | 5-amino-1H-indazole | 1 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | 3,4-dichlorobenzenesulfonyl chloride | 1.84 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dichloro-N-(1H-indazol-5-yl)benzenesulfonamide | 0.55 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC=1C=C2C=NNC2=CC1 | C13H9Cl2N3O2S
